US08871807B2
To a 2.0 g mixture of 9 or 10-Sulfostearic acid was added 2.0 g of 50% H2O2. The mixture was stirred at room temperature until all the solid was dissolved. Then, 2.0 g of 75% H3PO4 was added, and the resulting solution was stirred at room temperature overnight. No attempt was made to isolate the pure 9 or 10-sulfoperoxystearic acid from solution. 13C NMR (D2O) of the solution showed a peracid peak (COOOH) at 174 ppm and the parent the carboxylic acid peak at 178 ppm. The iodometric titration (QATM-202) indicated 18.96% of sulfoperoxystearic acid.

reactant | 10-Sulfostearic acid | S(=O)(=O)(O)C(CCCCCCCCC(=O)O)CCCCCCCC | C18H36O5S
reactant | H2O2 | 2.0 g | OO | H2O2
reactant | H3PO4 | 2.0 g | OP(=O)(O)O | H3O4P
product | 10-sulfoperoxystearic acid | S(=O)(=O)(O)C(CCCCCCCCC(=O)OO)CCCCCCCC | C18H36O6S
